US07935688B2
Synthesis of {5-[4-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2-methyl-phenyl]-pyridin-3-yl}-acetic Acid
A 2 N sodium hydroxide aqueous solution (0.50 mL, 1.0 mmol) was added to a solution of the mixture containing {5-[4-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2-methyl-phenyl]-pyridin-3-yl}-acetic acid methyl ester (65.3 mg) in methanol (1.0 mL), and the mixture was stirred with microwave heating at 100° C. for five minutes. A sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate and washing with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by high performance liquid chromatography (Shiseido CAPCELL PAK C18 MGII, 20 mm I.D.×50 mm, methanol:20 mM ammonium acetate solution=55:45 to 100:0, 20 mL/min). A sodium bicarbonate solution was added to the eluate, followed by extraction with ethyl acetate and washing with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the target compound as a colorless oil (16.0 mg, 30% in two steps).

reactant | sodium hydroxide | 1.0 mmol, 2 N, 0.50 mL | [OH-].[Na+]
reactant | {5-[4-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2-methyl-phenyl]-pyridin-3-yl}-acetic acid methyl ester | 65.3 mg | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)\C=C\C1(CCCCCC1)O)C)CC)C)=O | C36H45NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1.0 mL | CO | CH4O
product | {5-[4-(1-ethyl-1-{4-[2-(1-hydroxy-cycloheptyl)-(E)-vinyl]-3-methyl-phenyl}-propyl)-2-methyl-phenyl]-pyridin-3-yl}-acetic Acid | 16.0 mg, 30% | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C1(CCCCCC1)O)C)C1=CC(=C(C=C1)C=1C=C(C=NC1)CC(=O)O)C | C35H43NO3
